US04640930
To a solution of 2.0 g of 1,8-naphthosultam in 7 mL of dimethoxyethane was added dropwise under gentle reflux a solution of 11.5 mL of sodium bis(2-methoxyethoxy)aluminum hydride in toluene (3.4 mol solution in toluene) over a period of 15 minutes, then stirred at reflux for 17 hours. The mixture was cooled in an ice-bath, 5 mL of water were added dropwise then the solution was neutralized with 4N sulfuric acid (pH~7) and extracted with ether (3×75 mL). The combined ether solutions were washed with water (75 mL) then dried (magnesium sulfate) and removal of the solvent gave 1.5 g of 8 -amino-1-napthalenethiol. The thiol was recrystallized from ether--petroleum ether to afford 1.3 g of 8-amino-1-naphthalenethiol, mp. 69°-72°.

reactant | 1,8-naphthosultam | 2.0 g | C1=CC2=C3C(=C1)NS(=O)(=O)C3=CC=C2 | C10H7NO2S
reactant | sodium bis(2-methoxyethoxy)aluminum hydride | 11.5 mL | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | toluene | 3.4 mol | C1(=CC=CC=C1)C | C7H8
reactant | sulfuric acid | 4N, pH~7 | S(O)(O)(=O)=O | H2O4S
solvent | dimethoxyethane | 7 mL | C(OC)COC | C4H10O2
solvent | water | 5 mL | O | H2O
product | 8 -amino-1-napthalenethiol | 1.5 g | NC=1C=CC=C2C=CC=C(C12)S | C10H9NS
